US06350898B1
Diethyl Malonate
In an autoclave, 10.9 g (0.1 mol) of ethyl bromide were added to a solution of 2.96 g (20 mmol) of disodium malonate and 0.64 g (2 mmol) of tetrabutylammonium bromide in 5 ml of water and 10 ml of tert-butyl methyl ether. The mixture was heated to 100° C. over a period of 30 minutes, with the pressure in the autoclave rising to 3.5 bar. After a reaction time of 3½ hours at 100° C., the mixture was cooled to room temperature and depressurized. The aqueous phase was brought from pH 4.2 to pH 5.5 using 1 M sodium hydroxide solution and extracted with tert-butyl methyl ether (2×5 ml). The combined organic phases were dried over sodium sulfate and analyzed by gas chromatography (internal standard: dimethyl succinate). The product yield was 45 percent.

reactant | ethyl bromide | 0.1 mol, 10.9 g | C(C)Br | C2H5Br
reactant | disodium malonate | 20 mmol, 2.96 g | C(CC(=O)[O-])(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | tert-butyl methyl ether | 10 ml | COC(C)(C)C | C5H12O
catalyst | tetrabutylammonium bromide | 2 mmol, 0.64 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 5 ml | O | H2O
product | Diethyl Malonate | yield was 45 percent | C(CC(=O)OCC)(=O)OCC | C7H12O4
